US06949648B2
3-Methyl-4-(propylsulfanyl)-1-(2-pyridinyl)-1H-pyrazolo[3,4-b]quinoline
A solution of 3-methyl-1-(2-pyridinyl)-1,9-dihydro-4H-pyrazolo[3,4-b]quinolin-4-thione (4.04 g, 13.8 mmol), 1-iodopropane (6.80 mL, 69.7 mmol) and potassium carbonate (3.79 g, 27.5 mmol) in N,N-dimethylformamide (25 mL) was stirred at room temperature for 8 hours. The reaction solvent was evaporated under reduced pressure. Water was added to the residue, and the organic matter was extracted with ethyl acetate. The extract was washed with saturated brine and dried over anhydrous sodium sulfate, and the solvent was evaporated under reduced pressure. The residue thus obtained was recrystallized from ethyl acetate/hexane to give the title compound (3.83 g, 83% yield).

reactant | 3-methyl-1-(2-pyridinyl)-1,9-dihydro-4H-pyrazolo[3,4-b]quinolin-4-thione | 13.8 mmol, 4.04 g | CC1=NN(C=2NC3=CC=CC=C3C(C21)=S)C2=NC=CC=C2 | C16H12N4S
reactant | 1-iodopropane | 69.7 mmol, 6.80 mL | ICCC | C3H7I
reactant | potassium carbonate | 27.5 mmol, 3.79 g | C([O-])([O-])=O.[K+].[K+]
solvent | N,N-dimethylformamide | 25 mL | CN(C=O)C | C3H7NO
product | 3-Methyl-4-(propylsulfanyl)-1-(2-pyridinyl)-1H-pyrazolo[3,4-b]quinoline | 3.83 g, 83% yield | CC1=NN(C2=NC3=CC=CC=C3C(=C21)SCCC)C2=NC=CC=C2 | C19H18N4S
